US04229445
(d) 6-n-Propyl-3,4-methylenedioxy-benzonitrile
62.2 g (0.3 mol) of 6-n-propyl-3,4-methylenedioxybenzaldoxime were stirred with 400 ml of acetic anhydride for 3 hours under reflux, and the reaction solution was cooled and poured into water. It was left to stand for 2 hours and then extracted with toluene, and the organic phase was washed first with water, then with sodium bicarbonate solution and again with water until neutral. After drying over sodium sulphate, the organic phase was concentrated and distilled. 38 g (67% of theory) of boiling point 116° C./3 mm Hg were obtained.

reactant | 6-n-propyl-3,4-methylenedioxybenzaldoxime | 0.3 mol, 62.2 g | C(CC)C1=CC2=C(C=C1C=NO)OCO2 | C11H13NO3
reactant | acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 6-n-Propyl-3,4-methylenedioxy-benzonitrile | C(CC)C1=CC2=C(C=C1C#N)OCO2 | C11H11NO2
